US07307076B2
a) 6-benzyloxy-8-{2-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
385 mg (1 mmol) 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one and 167 mg (1 mmol) 2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamine are reacted and worked up analogously to Example 14. However, the resulting benzylether is chromatographed on a silica gel column (dichloromethane/methanol gradient).

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 1 mmol, 385 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(C(O2)(C)C)=O)C1)C(C(O)OCC)=O | C21H23NO6
reactant | 2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamine | 1 mmol, 167 mg | FC1=CC=C(C=C1)CC(C)(C)N | C10H14FN
product | 6-benzyloxy-8-{2-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(C(O2)(C)C)=O)C1)C(CNC(CC1=CC=C(C=C1)F)(C)C)O | C29H33FN2O4
